US09388176B2
6-(2-Methanesulfinyl-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl)-pyridine-2-carboxylic acid(4-isopropyl-phenyl)-amide
To a stirred mixture of N-(4-isopropylphenyl)-6-[2-(methylthio)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl]pyridine-2-carboxamide (400 mg, 0.953 mmol) in THF (40 ml) and water (16 ml) was added oxone (potassium peroxomonosulfate, 586 mg, 0.953 mmol). After stirring at room temperature for 3 hours, the reaction mixture was quenched by addition of 10% NaHSO3(aq.) (20 ml) and neutralized with sat'd NaHCO3(aq.) (16 ml). The solution was stirred for 20 minutes before extraction with ethyl acetate (2×60 ml). The combined organic extracts were dried (MgSO4), filtered, and concentrated to give the title compound as a light yellow, amorphous solid which was used without further purification (405 mg, 98%).

reactant | N-(4-isopropylphenyl)-6-[2-(methylthio)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl]pyridine-2-carboxamide | 0.953 mmol, 400 mg | C(C)(C)C1=CC=C(C=C1)NC(=O)C1=NC(=CC=C1)N1CC2=C(N=C(N=C2)SC)CC1 | C23H25N5OS
reactant | oxone | 0.953 mmol, 586 mg | OOS(=O)[O-].[K+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | water | 16 ml | O | H2O
product | 6-(2-Methanesulfinyl-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl)-pyridine-2-carboxylic acid(4-isopropyl-phenyl)-amide | C(C)(C)C1=CC=C(C=C1)NC(=O)C1=NC(=CC=C1)N1CC2=C(N=C(N=C2)S(=O)C)CC1 | C23H25N5O2S
